US08198311B2
(1-(4-Fluorophenyl)-1H-indazol-5-yl)methanol (2.46 g, 10.2 mmol) was dissolved in 80 mL DCM and treated with commercially available Dess-Martin periodinane (4.3 g, 10.2 mmol). The reaction was complete in 2 h and was filtered through a plug of SiO2 using DCM/hexane (3:1) and concentrated to give 2.47 g (100%) of 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde. MS found: (M+H)+=241.

reactant | (1-(4-Fluorophenyl)-1H-indazol-5-yl)methanol | 10.2 mmol, 2.46 g | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)CO | C14H11FN2O
reactant | Dess-Martin periodinane | 10.2 mmol, 4.3 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | DCM | 80 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-fluorophenyl)-1H-indazol-5-carboxaldehyde | 2.47 g, 100% | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C=O | C14H9FN2O
